US06025489
Combine 2,4-bis(1H-imidazol-1-yl)-6-(2-propyl)pyrimidin-5-amine (6 g, 22.3 mmol) with 4.5 g (27.8 mmol) of carbonyldiimidazole in 150 mL of 1,2-dichlorobenzene and heat at reflux under N2 for 2 hours. Cool to ambient temperature. Filter the precipitate and wash with CH2Cl2. Dissolve the solids in 500 mL of 10% HCl, treat with charcoal, filter, and make the filtrate basic with NH4OH. Filter the resulting precipitate, wash with water and then with acetone to provide 2-(1H-imidazol-1-yl)-4-(2-propyl)imidazo[2,1-h]pteridin-6(5H)-one; NMR (DMSO+CF3CO2D): δ1.32 (d, 6), 3.84 (m, 1), 7.15 (s, 1), 7.67 (s, 1), 8.04 (s, 1), 8.5 (s, 1) and 8.69 (s, 1 ) ppm.

reactant | 2,4-bis(1H-imidazol-1-yl)-6-(2-propyl)pyrimidin-5-amine | 22.3 mmol, 6 g | N1(C=NC=C1)C1=NC(=C(C(=N1)N1C=NC=C1)N)C(C)C | C13H15N7
reactant | carbonyldiimidazole | 27.8 mmol, 4.5 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | 1,2-dichlorobenzene | 150 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2-(1H-imidazol-1-yl)-4-(2-propyl)imidazo[2,1-h]pteridin-6(5H)-one | N1(C=NC=C1)C1=NC=2N3C(C(NC2C(=N1)C(C)C)=O)=NC=C3 | C14H13N7O
